US07427632B2
3-Chloro-N-[1-(2-chlorophenyl)-2-[1-(2,2,2-trifluoroethyl)-piperidin-4-ylmethoxy]ethyl]-1H-indole-6-carboxamide
To a solution of 3-chloro-N-[1-(2-chlorophenyl)-2-(piperidin-4-ylmethoxy)ethyl]-1H-indole-6-carboxamide (700 mg, 1.6 mmol) in 5 mL of DMSO was added potassium carbonate (1.0 g, 7.9 mmol) and 2,2,2-trifluoroethyl trifluoromethane-sulfonate (364 mg, 1.6 mmol). The reaction was allowed to stir at room temperature overnight after which time water was added and the resulting precipitate was isolated by filtration. Purification of the filtrate (SiO2: 30% EtOAc in hexane) provided 250 mg (30%) of the title compound.

reactant | 3-chloro-N-[1-(2-chlorophenyl)-2-(piperidin-4-ylmethoxy)ethyl]-1H-indole-6-carboxamide | 1.6 mmol, 700 mg | ClC1=CNC2=CC(=CC=C12)C(=O)NC(COCC1CCNCC1)C1=C(C=CC=C1)Cl | C23H25Cl2N3O2
reactant | potassium carbonate | 7.9 mmol, 1.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,2,2-trifluoroethyl trifluoromethane-sulfonate | 1.6 mmol, 364 mg | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
reactant | water | O | H2O
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | 3-Chloro-N-[1-(2-chlorophenyl)-2-[1-(2,2,2-trifluoroethyl)-piperidin-4-ylmethoxy]ethyl]-1H-indole-6-carboxamide | 250 mg, 30% | ClC1=CNC2=CC(=CC=C12)C(=O)NC(COCC1CCN(CC1)CC(F)(F)F)C1=C(C=CC=C1)Cl | C25H26Cl2F3N3O2
